Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:11].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10],4.52345710715
[H:1][C:2][O:3][C:4]([C:5]#[C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2][O:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.98604294856
[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])/[C:4]=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10],4.730462425
[H:1][O:2][C:3]#[C:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]#[C:4],7.06773894505
[H:1].[O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-3.84062821233
[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:11]([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-4.79553495449
[H:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[H:7])[O:8][C:9][C:10]1([H:11])[H:12]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[O:8][C:9]=[C:10]([H:11])[H:12],3.00357255782
[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])[H:8]>>[C:3]#[C:4][C:5][C:6]([H:7])[H:8].[H:1][O:2],5.14460821894
[C:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11]>>[C:1](=[C:2]=[C:6]([H:7])[H:8])([H:3])[H:4].[C:5]=[C:9]([H:10])[H:11],-0.573515001781
[C:3][H:4].[O:1]=[C:2][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-5.39611830497
[H:1][C:2]#[C:3]/[C:4](=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])=[O:7])[C:9]([H:10])([H:11])[H:12].[H:8],3.33871549337
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:10]=[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-1.83605926555
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[H:8]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.54667735144
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.89315276171
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],1.98809999776
[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.60069197671
[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-2.7590715938300003
[H:1][C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],2.10868715306
[C:4]([H:5])=[C:6]([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-6.64369444888
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[O:7][H:8]>>[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[O:7][H:8],5.05690108487
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[H:13].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[O:12],1.58334055551
[C:5]([H:6])([H:7])[O:8][H:9].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9],-1.23714841299
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],3.96809592712
[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[H:8],1.8114780283400005
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][H:4],3.5397922459699993
[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],-4.43599346105
[O:1]=[C:2]([H:3])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:4][H:5]>>[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.42366046118
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])[H:7].[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],1.5475381115200002
